### PR TITLE
[Merged by Bors] - feat(CategoryTheory): filteredness of Comma catgories given finality of one of the functors

### PR DESCRIPTION
**Pull request by javra**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Comma/Final.lean [hunk 1]
```diff
@@ -132,6 +136,30 @@ lemma map_final {A : Type u₁} [Category.{v₁} A] {B : Type u₂} [Category.{u
...
+variable {A : Type u₁} [Category.{v₁} A]
+variable {B : Type u₂} [Category.{u₂} B]
+variable {T : Type u₂} [Category.{u₂} T]
+variable (L : A ⥤ T) (R : B ⥤ T)
+
+attribute [local instance] map_final in
+/-- Let `A` and `B` be filtered categories, `R : B ⥤ T` be final and `L : A ⥤ T`. Then, the
+comma category `Comma L R` is filtered. -/
+lemma filtered [IsFiltered A] [IsFiltered B] [R.Final] : IsFiltered (Comma L R) := by
+  haveI (a : A) : IsFiltered (Comma (fromPUnit (L.obj a)) R) :=
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Comma/Final.lean:150]: Are these `haveI` really needed (recall that `haveI` in Lean 4 is not the same as `haveI` in Lean 3...)?

Comment (javra) [reply Mathlib/CategoryTheory/Comma/Final.lean:150]: No, they can as well be `have`s I think.

**Comment by javra** [comment]
The universe levels are as general as `map_final` admits, but we might want to make `map_final` more general? :thinking:

**Comment by TwoFX** [comment]
> The universe levels are as general as `map_final` admits, but we might want to make `map_final` more general? 🤔

Yes, I think it would be great if we could get fully general universes here (though for the application to `Ind C` the current version is already sufficient).

File: Mathlib/CategoryTheory/Comma/Final.lean [hunk 2]
```diff
@@ -132,6 +136,37 @@ lemma map_final {A : Type u₁} [Category.{v₁} A] {B : Type u₂} [Category.{u
...
+  have (a : A) := IsFiltered.of_final (map (L := fromPUnit (L.obj a)) (F := 𝟭 T) (η a).hom
+    ((Iso.refl (𝟭 B ⋙ R)).inv))
+  have : RepresentablyCoflat (fst L R) :=
+    ⟨fun a => IsFiltered.of_equivalence (CostructuredArrow.ofCommaFstEquivalence L R a).symm⟩
+  apply isFiltered_of_representablyCoflat (fst L R)
+
+attribute [local instance] filtered_of_final in
+/-- Let `A` and `B` be cofiltered categories, `L : A ⥤ T` be initial and `R : B ⥤ T`. Then, the
+comma category `Comma L R` is cofiltered. -/
+lemma cofiltered_of_final [IsCofiltered A] [IsCofiltered B] [L.Initial] :
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Comma/Final.lean:164]:
```suggestion
lemma isCofiltered_of_initial [IsCofiltered A] [IsCofiltered B] [L.Initial] :
```

File: Mathlib/CategoryTheory/Comma/StructuredArrow/CommaMap.lean [hunk 3]
```diff
@@ -23,7 +23,7 @@ noncomputable section
 variable {C : Type u₁} [Category.{v₁} C] {D : Type u₂} [Category.{v₂} D]
   {T : Type u₃} [Category.{v₃} T] {L : C ⥤ T} {R : D ⥤ T}
   {C' : Type u₄} [Category.{v₄} C'] {D' : Type u₅} [Category.{v₅} D'] {T' : Type u₆}
-  [Category.{u₆} T'] {L' : C' ⥤ T'} {R' : D' ⥤ T'} {F₁ : C ⥤ C'} {F₂ : D ⥤ D'} {F : T ⥤ T'}
+  [Category.{v₆} T'] {L' : C' ⥤ T'} {R' : D' ⥤ T'} {F₁ : C ⥤ C'} {F₂ : D ⥤ D'} {F : T ⥤ T'}
```
Comment (javra) [inline Mathlib/CategoryTheory/Comma/StructuredArrow/CommaMap.lean:26]: I don't even know if this was just a typo...

File: Mathlib/CategoryTheory/Comma/Final.lean [hunk 4]
```diff
@@ -132,6 +136,37 @@ lemma map_final {A : Type u₁} [Category.{v₁} A] {B : Type u₂} [Category.{u
...
+
+variable {A : Type u₁} [Category.{v₁} A]
+variable {B : Type u₂} [Category.{v₂} B]
+variable {T : Type u₃} [Category.{v₃} T]
+variable (L : A ⥤ T) (R : B ⥤ T)
+
+attribute [local instance] map_final in
+/-- Let `A` and `B` be filtered categories, `R : B ⥤ T` be final and `L : A ⥤ T`. Then, the
+comma category `Comma L R` is filtered. -/
+lemma filtered_of_final [IsFiltered A] [IsFiltered B] [R.Final] : IsFiltered (Comma L R) := by
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Comma/Final.lean:149]:
```suggestion
lemma isFiltered_of_final [IsFiltered A] [IsFiltered B] [R.Final] : IsFiltered (Comma L R) := by
```

**Review by TwoFX — APPROVED** [review]
Thanks!
bors r+
